US05155121
3-Cyanophenyl-3-pyridinyl-methanol
52.8 ml of 2.5 molar butyllithium solution (0.132 mol) in n-hexane are cooled to -78° C. under argon in a mixture of 66 ml of abs. THF and 66 ml of abs. diethyl ether. 17.38 g (0.11 mol) of 3-bromopyridine in 132 ml of abs. diethyl ether are added dropwise to this in the course of 90 min. and the mixture is subsequently stirred for 10 min. 14.5 g (0.11 mol) of 3-cyanobenzaldehyde in 275 ml of abs. diethyl ether and 44 ml of abs. THF are added dropwise to this solution. It is slowly allowed to come to room temperature and stirred overnight at room temperature. It is then stirred into 1100 ml of ice water, extracted twice using 550 ether each time and the combined organic phases are washed by shaking with satd. NaCl solution. After drying over Na2SO4, the organic phase is evaporated and the residue is dried in a high vacuum.

reactant | butyllithium | 0.132 mol, 2.5 molar, 52.8 ml | C(CCC)[Li]
reactant | 3-bromopyridine | 0.11 mol, 17.38 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | 3-cyanobenzaldehyde | 0.11 mol, 14.5 g | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
solvent | n-hexane | CCCCCC | C6H14
solvent | THF | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-Cyanophenyl-3-pyridinyl-methanol | C(#N)C=1C=C(C=CC1)C(O)C=1C=NC=CC1 | C13H10N2O
